US04886814
2,5-Dimethyl-4-bromoacetyl-oxazole
2.8 g (0.02 mol) of 2,5-Dimethyl-4-acetyl-oxazole are dissolved in 30 ml of glacial acetic acid, and 3 ml of a 35% strength solution of hydrogen bromide in glacial acetic acid are added. The mixture is heated to 100° C. and, over the course of 1 hour, a solution of 3.2 g (0.02 mol) of bromine in 10 ml of glacial acetic acid is added. After a further 2 hours the solvent is removed, and the residue is triturated with 50 ml of ether and filtered off with suction.

reactant | 2,5-Dimethyl-4-acetyl-oxazole | 0.02 mol, 2.8 g | CC=1OC(=C(N1)C(C)=O)C | C7H9NO2
reactant | hydrogen bromide | Br | BrH
reactant | bromine | 0.02 mol, 3.2 g | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2,5-Dimethyl-4-bromoacetyl-oxazole | CC=1OC(=C(N1)C(CBr)=O)C | C7H8BrNO2
